US09120825B2
In an argon atmosphere, 505 mg (purity: 95%, 20.9 mmol) of lithium amide was suspended in 20 mL of 1,2-dimethoxyethane and after adding 4.65 g (20.0 mmol) of Si(tBuNCHCHNtBu)(H)Cl, the mixture was stirred at room temperature for 2 hours. Subsequently, 20 mL of hexane was added to the reaction mixture, and the mixture was stirred at room temperature for 10 minutes. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained residue was distilled under reduced pressure (distillation temperature: 78° C./3.8×102 Pa) to obtain 2-amino-1,3-di-tert-butyl-1,3-diaza-2-silacyclopent-4-ene (Si(tBuNCHCHNtBu)(H)NH2) as a pale yellow liquid (yielded amount: 3.93 g, yield: 92%).

reactant | lithium amide | 20.9 mmol, 505 mg | [NH2-].[Li+]
reactant | 2-chloro-1,3-di-tert-butyl-1,3-diaza-2-silacyclopent-4-ene | 20.0 mmol, 4.65 g | Cl[SiH]1N(C=CN1C(C)(C)C)C(C)(C)C | C10H21ClN2Si
reactant | hexane | 20 mL | CCCCCC | C6H14
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
product | 2-amino-1,3-di-tert-butyl-1,3-diaza-2-silacyclopent-4-ene | yield: 92% | N[SiH]1N(C=CN1C(C)(C)C)C(C)(C)C | C10H23N3Si
